US04006243
(2,6-Dichlorobenzyl)-[4-(1-imidazolylmethyl)-phenyl]-ether, Hydrochloride
This compound is produced according to Example 2 from 4-(1-imidazolylmethyl)-phenol and 2,6-dichlorobenzyl chloride.

reactant | 4-(1-imidazolylmethyl)-phenol | N1C(=NC=C1)CC1=CC=C(C=C1)O | C10H10N2O
reactant | 2,6-dichlorobenzyl chloride | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
product | (2,6-Dichlorobenzyl)-[4-(1-imidazolylmethyl)-phenyl]-ether, Hydrochloride | Cl.ClC1=C(COC2=CC=C(C=C2)CC=2NC=CN2)C(=CC=C1)Cl | InChI=1S/C17H14Cl2N2O.ClH/c18-15-2-1-3-16(19)14(15)11-22-13-6-4-12(5-7-13)10-17-20-8-9-21-17;/h1-9H,10-11H2,(H,20,21);1H
